US05587379
Under a nitrogen atmosphere, a stirred solution of 7.6 grams (0.027 mole) of 3-cyano-2-methoxy-6-(2-trifluoromethylphenyl)-2-hexene and 12.2 grams (0.068 mole) of guanidine carbonate in 35 mL of N,N-dimethylacetamide was heated at about 150° C. for 40 hours. After this time, the reaction mixture was poured into 300 mL of water. The resultant solid was collected by filtration, and was then slurried in 100 mL of diethyl ether. The solid was again collected by filtration and was subjected to column chromatography on silica gel. Elution was accomplished using 10% methanol in methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 3.4 grams of 2,4-diamino-5-[3-(2-trifluoromethylphenyl)propyl]-6-methyl-pyrimidine, mp 151°-158° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-cyano-2-methoxy-6-(2-trifluoromethylphenyl)-2-hexene | 0.027 mole, 7.6 grams | C(#N)C(=C(C)OC)CCCC1=C(C=CC=C1)C(F)(F)F | C15H16F3NO
reactant | guanidine carbonate | 0.068 mole, 12.2 grams | C(O)(O)=O.NC(=N)N
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylacetamide | 35 mL | CN(C(C)=O)C | C4H9NO
product | 2,4-diamino-5-[3-(2-trifluoromethylphenyl)propyl]-6-methyl-pyrimidine | 3.4 grams | NC1=NC(=C(C(=N1)N)CCCC1=C(C=CC=C1)C(F)(F)F)C | C15H17F3N4
